US04107308
Imidazo[1,5-d]-as-triazine-4(3H)-thione
A suspension of 164.5 gm. of 3-(4-imidazolylmethylene)dithiocarbazic acid methyl ester in 1.2 liters of diphenyl ether is heated and stirred at 175° C. until the methylmercaptan evolution subsides (20 minutes). The precipitate obtained on cooling to room temperature is collected and washed with petroleum ether, then acetone. The precipitate is then slurried with 1.2 liters of boiling methanol and filtered while hot to give the desired product, m.p. 271°-273° C.

reactant | 3-(4-imidazolylmethylene)dithiocarbazic acid methyl ester | CSC(NN=CC=1N=CNC1)=S | C6H8N4S2
reactant | methylmercaptan | CS | CH4S
solvent | diphenyl ether | 1.2 liters | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
product | Imidazo[1,5-d]-as-triazine-4(3H)-thione | C=1C=2N(C(NN1)=S)C=NC2 | C5H4N4S
